US04022797
N-Cyano-N'-(2-dimethylaminoethyl)-N"-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine
By the procedure of Example 4, 2-(dimethylamino)ethylamine is reacted with N-cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]-S-methylisothiourea to give the title compound.

reactant | 2-(dimethylamino)ethylamine | CN(CCN)C | C4H12N2
reactant | N-cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]-S-methylisothiourea | C(#N)NC(SC)=NCCSCC1=C(N=CN1)C | C10H15N5S2
product | N-Cyano-N'-(2-dimethylaminoethyl)-N"-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine | C(#N)NC(=NCCSCC1=C(N=CN1)C)NCCN(C)C | C13H23N7S
